US09284411B2
Preparation of 1-(tert-Butyldiphenylsilyl)oxy-dodecan-12-ol (1)
In a Schlenk flask, 1,12-Dodecandiol (7.96 g, 39.4 mmol, 1 eq) was dissolved in 40 mL of dry DMF under nitrogen. Imidazole (2.63 g, 38.6 mmol, 1 eq) and tert-butylchlorodiphenylsilane (TBDPS) (10.84 g, 39.4 mmol, 1 eq) were added and the reaction mixture was heated to 45° C. After stirring for 48 h, the reaction was quenched with 300 mL of distilled water. The aqueous phase was extracted four times with diethyl ether, the organic phases were collected and washed twice with 2N HCl (2×100 mL), once with saturated NaHCO3 (200 mL), once with saturated NaCl (200 mL) and dried over Na2SO4. Column-chromatography over silica gel using 10/1 hexane/ethyl acetate as eluent yielded 7.98 g (46%) of the desired product as a slightly yellowish oil. 1H NMR (300.13 MHz): δ (ppm)=1.05 (s, 9H, tert-butyl), 1.26 (br, 16H, —O—CH2—CH2—CH2—CH2—CH2—), 1.58 (m, 4H, —O—CH2—CH2—), 3.65 (m, 4H, —O—CH2—), 7.40 (m, 6H, phenyl), 7.69 (m, 4H, phenyl). 13C NMR (75.48 MHz): δ (ppm)=19.2, 25.7, 25.8, 25.9, 29.3, 29.4, 29.58, 29.6, 32.6, 32.8, 63.1, 64.0, 127.5, 129.4, 134.1, 135.6.

reactant | 1,12-Dodecandiol | 39.4 mmol, 7.96 g, 1 eq | C(CCCCCCCCCCCO)O | C12H26O2
reactant | Imidazole | 38.6 mmol, 2.63 g, 1 eq | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 39.4 mmol, 10.84 g, 1 eq | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-(tert-Butyldiphenylsilyl)oxy-dodecan-12-ol | 7.98 g, 46% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCCCCCCCCCO | C28H44O2Si
